US03993604
6 g of sodium hydride -- 50% in mineral oil -- were allowed to react with 100 ml of dimethyl-sulfoxide, at 55° - 60° for 90 min. 7.5 g of cis-4-isopropenyl-cyclohexylmethanol were then added to the resulting solution, followed by a dropwise addition of 20 g of ethyl bromide. The reaction mixture was stirred overnight at room temperature, then poured onto crushed ice and finally extracted with hexane. After the usual treatments of washing, drying and evaporation, the fractional distillation of the obtained residue yielded cis-4-isopropenyl-cyclohexylmethyl ethyl ether, bp 96° - 97°/10 Torr.

reactant | sodium hydride | 6 g | [H-].[Na+]
reactant | cis-4-isopropenyl-cyclohexylmethanol | 7.5 g | C(=C)(C)[C@H]1CC[C@H](CC1)CO | C10H18O
reactant | ethyl bromide | 20 g | C(C)Br | C2H5Br
solvent | dimethyl-sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | cis-4-isopropenyl-cyclohexylmethyl ethyl ether | C(C)OC[C@@H]1CC[C@@H](CC1)C(=C)C | C12H22O
